US06316639B1
Preparation of 4-nitro-N-hydroxyphthalimide
Analogous to Example 4, but from 500 mg (2.37 mmol) of 4-nitrophthalic acid (tech., contaminated with approximately 10% of 3-nitrophthalic acid) and 187 mg (0.974 mmol) of hydroxylammonium phosphate at a bath temperature of 130° C. The yield was 332 mg (67%, approximately 5% contaminated).

reactant | 4-nitrophthalic acid | 2.37 mmol, 500 mg | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5NO6
reactant | hydroxylammonium phosphate | 0.974 mmol, 187 mg | P(=O)([O-])([O-])[O-].O[NH3+].O[NH3+].O[NH3+]
product | 4-nitro-N-hydroxyphthalimide | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)O)=CC1 | C8H4N2O5
